US08497278B2
1-((2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridin-3-yl)methyl)-6-methylpyridin-2(1H)-one (120)
The title compound was prepared according to Method B and the experimentals described for compound 91 from 3-(chloromethyl)-2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridine hydrochloride and 6-methylpyridin-2(1H)-one. 1H-NMR (CDCl3, 400 MHz, δ) 8.75 (dd, J=2.2, 4.6 Hz, 1H), 7.55 (m, 3H), 7.45 (m, 2H), 7.16 (m, 2H), 6.55 (d, J=9.1 Hz, 1H), 5.87 (d, J=6.8 Hz, 1H), 5.84 (s, 2H), 1.74 (s, 3H) ppm; m/e 368 (M+H)+

reactant | 3-(chloromethyl)-2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)F)C2=CC=C(C=C2)Cl
reactant | 6-methylpyridin-2(1H)-one | CC1=CC=CC(N1)=O | C6H7NO
product | 1-((2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridin-3-yl)methyl)-6-methylpyridin-2(1H)-one | ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)F)C1CN1C(C=CC=C1C)=O | C20H15ClFN3O
